US05650533
A mixture of 4-(N,N-dimethylsulphamoyl)-2-trifluoromethylbenzamide (1.38 g), acetic acid (10 ml) and concentrated sulphuric acid (0.5 ml) were heated to 70° C. and isoamyl nitrite (15 ml) was added over 4 hours. After cooling the mixture was poured into water and extracted with ethyl acetate and washed with water. The organic phase was extracted with 2M sodium carbonate and the aqueous layer acidified to pH 1 with 2M HCl. This was extracted with ethyl acetate, washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue passed through a short silica column eluting with dichloromethane-ethyl acetate to give 4-(N,N-dimethylsulphamoyl)-2-trifluoromethylbenzoic acid (0.98 g) as a white solid, m.p. 188.8°-189.4° C.

reactant | 4-(N,N-dimethylsulphamoyl)-2-trifluoromethylbenzamide | 1.38 g | CN(S(=O)(=O)C1=CC(=C(C(=O)N)C=C1)C(F)(F)F)C | C10H11F3N2O3S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | isoamyl nitrite | 15 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | water | O | H2O
product | 4-(N,N-dimethylsulphamoyl)-2-trifluoromethylbenzoic acid | 0.98 g | CN(S(=O)(=O)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C | C10H10F3NO4S
